US06806230B1
1.0 g (3.2 mmol) of N-(1-(4-formylpyrimidin-5-yl)-2-methylpropyl]-N-methylphenylacetamide was dissolved in 30 ml of methanol, and 0.45 g (6.5 mmol) of hydroxylamine hydrochloride and 0.63 g (6.4 mmol) of potassium acetate were added and reacted at room temperature for 1 hour. After completion of the reaction, the product was poured into water and extracted with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution, an aqueous citric acid solution, water and an aqueous sodium chloride solution, in this order, dried and concentrated, and the obtained oily product was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1 to ethyl acetate) to obtain 0.45 g (yield: 43%) of N-[1-(4-hydroxyiminomethylpyrimidin-5-yl)-2-methylpropyl]-N-methylphenylacetamide as colorless crystals (melting point: 171-172° C.).

reactant | N-(1-(4-formylpyrimidin-5-yl)-2-methylpropyl]-N-methylphenylacetamide | 3.2 mmol, 1.0 g | C(=O)C1=NC=NC=C1C(C(C)C)N(C(CC1=CC=CC=C1)=O)C | C18H21N3O2
reactant | hydroxylamine hydrochloride | 6.5 mmol, 0.45 g | Cl.NO
reactant | potassium acetate | 6.4 mmol, 0.63 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | N-[1-(4-hydroxyiminomethylpyrimidin-5-yl)-2-methylpropyl]-N-methylphenylacetamide | 0.45 g, yield: 43% | ON=CC1=NC=NC=C1C(C(C)C)N(C(CC1=CC=CC=C1)=O)C | C18H22N4O2
